Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][cH:4][c:5](-[n:6]2[n:7][cH:8][c:9](-[c:10]3[c:11]([CH3:12])[cH:13][c:14]([C:15]#[N:16])[cH:17][cH:18]3)[c:19]2[OH:20])[n:21][cH:22]1)=[O:23].[CH2:24]1[CH2:25][CH2:26][N:27]([CH:28]2[CH2:29][CH2:30][CH2:31][NH:32][CH2:33]2)[CH2:34][CH2:35]1>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[n:6]2[n:7][cH:8][c:9](-[c:10]3[c:11]([CH3:12])[cH:13][c:14]([C:15]#[N:16])[cH:17][cH:18]3)[c:19]2[OH:20])[n:21][cH:22]1)(=[O:23])[N:32]1[CH2:31][CH2:30][CH2:29][CH:28]([N:27]2[CH2:26][CH2:25][CH2:24][CH2:35][CH2:34]2)[CH2:33]1,[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5](-[n:6]2[n:7][cH:8][c:9](-[c:10]3[c:11]([CH3:12])[cH:13][c:14]([C:15]#[N:16])[cH:17][cH:18]3)[c:19]2[OH:20])[n:21][cH:22]1)=[O:23].[CH2:24]1[CH2:25][CH2:26][N:27]([CH:28]2[CH2:29][CH2:30][CH2:31][NH:32][CH2:33]2)[CH2:34][CH2:35]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5](-[n:6]2[n:7][cH:8][c:9](-[c:10]3[c:11]([CH3:12])[cH:13][c:14]([C:15]#[N:16])[cH:17][cH:18]3)[c:19]2[OH:20])[n:21][cH:22]1)(=[O:23])[N:32]1[CH2:31][CH2:30][CH2:29][CH:28]([N:27]2[CH2:26][CH2:25][CH2:24][CH2:35][CH2:34]2)[CH2:33]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (32, 1), ([1, 23], 23), (303, 32.1), ([32.1, 32], 32), (23, [23, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][c:3]1[cH:4][cH:5][c:6]([O:7][CH2:8][CH2:9][CH2:10][CH3:11])[cH:12][cH:13]1)[NH:14][CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]([CH2:2][c:3]1[cH:4][cH:5][c:6]([O:7][CH2:8][CH2:9][CH2:10][CH3:11])[cH:12][cH:13]1)[NH:14][CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,[O:101]=[C:1]([CH2:2][c:3]1[cH:4][cH:5][c:6]([O:7][CH2:8][CH2:9][CH2:10][CH3:11])[cH:12][cH:13]1)[NH:14][CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[AlH4-:301].[AlH4-:302]>>[CH2:1]([CH2:2][c:3]1[cH:4][cH:5][c:6]([O:7][CH2:8][CH2:9][CH2:10][CH3:11])[cH:12][cH:13]1)[NH:14][CH2:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (14, [14, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 14], 14)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2]Br)[c:3]1[cH:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12]1.[CH3:13][O:14][C:15](=[O:16])[CH2:17][O:18][c:19]1[cH:20][cH:21][c:22]([O:23][CH2:24][CH2:25][C:26]([NH2:27])=[S:28])[cH:29][c:30]1[CH3:31]>>[c:1]1(-[c:3]2[cH:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12]2)[cH:2][s:28][c:26]([CH2:25][CH2:24][O:23][c:22]2[cH:21][cH:20][c:19]([O:18][CH2:17][C:15]([O:14][CH3:13])=[O:16])[c:30]([CH3:31])[cH:29]2)[n:27]1,[CH3:13][O:14][C:15](=[O:16])[CH2:17][O:18][c:19]1[cH:20][cH:21][c:22]([O:23][CH2:24][CH2:25][C:26]([NH2:27])=[S:28])[cH:29][c:30]1[CH3:31].[O:101]=[C:1]([CH2:2][Br:102])[c:3]1[cH:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12]1>>[c:1]1(-[c:3]2[cH:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12]2)[cH:2][s:28][c:26]([CH2:25][CH2:24][O:23][c:22]2[cH:21][cH:20][c:19]([O:18][CH2:17][C:15]([O:14][CH3:13])=[O:16])[c:30]([CH3:31])[cH:29]2)[n:27]1,Hantzsch_thiazole_synthesis,"[(27, [27, 26]), ([26, 28], 2), ([2, 102], 102), (102, 27.1), ([27.1, 27], 27), (101, 102.1), ([102.1, 102], 102), (27, 1), ([1, 101], 101), (102, 27.1), ([27.1, 27], 27), (101, 102.1), ([102.1, 102], 102), (102, 2.1), ([2.1, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([F:9])[cH:10]1.[CH3:11][CH2:12][CH:13]([NH2:14])[C:15](=[O:16])[O:17][CH2:18][CH:19]([CH3:20])[CH3:21]>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([F:9])[cH:10]1)[NH:14][CH:13]([CH2:12][CH3:11])[C:15](=[O:16])[O:17][CH2:18][CH:19]([CH3:20])[CH3:21],[OH:101][C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([F:9])[cH:10]1.[CH3:11][CH2:12][CH:13]([NH2:14])[C:15](=[O:16])[O:17][CH2:18][CH:19]([CH3:20])[CH3:21].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([F:9])[cH:10]1)[NH:14][CH:13]([CH2:12][CH3:11])[C:15](=[O:16])[O:17][CH2:18][CH:19]([CH3:20])[CH3:21],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (14, 1), ([1, 2], 2), (303, 14.1), ([14.1, 14], 14), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
